US08334317B2
1-(6-(Trifluoromethyl)pyridin-3-yl)hydrazine was prepared as follows: A 250-mL round bottomed flask containing a solution of 6-(trifluoromethyl)pyridin-3-amine (5.76 g, 35.5 mmol) in 50 mL of 4 N HCl was cooled to 0° C. in an ice bath and a solution of sodium nitrite (2.57 g, 37.3 mmol) in 5 mL of water was added dropwise. The reaction mixture was stirred at 0° C. for 30 min and added to a solution of tin(II) chloride dihydrate (16.8 g, 74.6 mmol) in 60 mL of 4 N HCl at 80° C. The reaction mixture was stirred at 80° C. for 3 h, cooled to room temperature, and made basic by the addition of 10 N NaOH. The aqueous phase was extracted with EtOAc (4×). The combined organic extracts were concentrated and the crude material was absorbed onto silica gel. Purification by flash column chromatography on silica gel (10% to 100% EtOAc in hexanes) gave 1-(6-(trifluoromethyl)pyridin-3-yl)hydrazine.

reactant | 6-(trifluoromethyl)pyridin-3-amine | 35.5 mmol, 5.76 g | FC(C1=CC=C(C=N1)N)(F)F | C6H5F3N2
reactant | sodium nitrite | 37.3 mmol, 2.57 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | 74.6 mmol, 16.8 g | O.O.[Sn](Cl)Cl
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | HCl | 4 N, 50 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | HCl | 4 N, 60 mL | Cl | ClH
product | 1-(6-(trifluoromethyl)pyridin-3-yl)hydrazine | FC(C1=CC=C(C=N1)NN)(F)F | C6H6F3N3
